US08859773B2
To a solution of 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (241 mg, 0.54 mmol) in toluene (10 mL) was added triethylamine (91 μL, 0.65 mmol) and diphenylphosphoryl azide (0.14 mL, 0.65 mmol). The mixture was heated at 120° C. for 3 hours, the reaction was cooled and the volatiles were removed under reduced pressure. The resultant oil was purified by flash chromatography (25 g silica, 7-60% ethyl acetate/heptane gradient) to yield 225 mg of tert-butyl 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)-4-isocyanatopiperidine-1-carboxylate as a clear oil. +APCI (M+H) 385.1; 1H NMR (400 MHz, CDCl3, δ): 7.40 (s, 1H), 4.03 (br. s., 2H), 2.97 (br. t, J=12.3, 12.3 Hz, 2H), 2.70 (s, 2H), 1.74 (s, 9H), 1.67 (m, 2H), 1.62 (m, 2H), 1.46 (s, 9H).

reactant | 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 0.54 mmol, 241 mg | BrC1=C(C=NN1C(C)(C)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C19H30BrN3O4
reactant | triethylamine | 0.65 mmol, 91 μL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.65 mmol, 0.14 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)-4-isocyanatopiperidine-1-carboxylate | 225 mg | BrC1=C(C=NN1C(C)(C)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)N=C=O | C19H29BrN4O3
